US06645986B2
The D-(−)-tartrate salt of (1S,2S)-1-(4-hydroxyphenyl)-2-(4-hydroxy-4-phenylpiperidin-1-yl)-1-propanol (5.0 g, 10.5 mmol), water (17.5 mL), and methanesulfonic acid (1.05 g, 11.0 mmol) were combined in a 50 mL, 3-neck round bottom flask under a nitrogen atmosphere. The slurry was heated to 60-65° C. to give a solution which was then filtered. The filtrate was slowly cooled over 1 hour to 15-20° C. to give a thick white suspension. The slurry was further cooled to 0-5° C. and then granulated at 0-5° C. for 1 hour. The product was filtered, the cake washed with 2.5 mL of cold water (0-5° C.) and then dried at 20-25° C. under nitrogen sweep. (1S,2S)-1-(4-hydroxyphenyl)-2-(4-hydroxy-4-phenylpiperidin-1-yl)-1-propanol mesylate trihydrate (4.53 g) was isolated in 90.4% overall yield as a white crystalline solid. The physical and chemical properties of the isolated trihydrate were identical to an authentic sample. 1H NMR (d6-DMSO) δ9.58 (s, 1H), 8.91 (S, 1H), 7.48 (m, 2H), 7.35 (m, 2,2H), 7.21 (m, 3H), 6.77 (d, J=8.5 Hz, 2H) 6.35 (s, 1H), 5.52 (s, 1H), 4.58 (d, J=8.1 Hz, 1H), 340 (m, 11H) 2.63 (m, 1H), 2.3 (s, 3H), 1.78 (m, 2H), 0.95 (d, J=6.6 Hz, 3H). 13C NMR (d6-DMSO) δ158.13, 148.61, 132.27, 129.27, 128.80, 127.51, 125.26, 115.89, 72.12, 68.89, 66.30, 47.40, 42.91, 35.71, 35.37. Anal. Calcd. for C20H25NO3.CH3SO3H.3H2O: C, 52.81; H, 7.39; N,2.93; S, 6.71. Found: C, 52.77; H, 7.50; N, 2.94; S, 6.96. αD=+54.5° (anhydrous basis).

reactant | D-(−)-tartrate | C(=O)([O-])[C@@H](O)[C@H](O)C(=O)[O-]
reactant | (1S,2S)-1-(4-hydroxyphenyl)-2-(4-hydroxy-4-phenylpiperidin-1-yl)-1-propanol | 10.5 mmol, 5.0 g | OC1=CC=C(C=C1)[C@@H]([C@H](C)N1CCC(CC1)(C1=CC=CC=C1)O)O | C20H25NO3
reactant | methanesulfonic acid | 11.0 mmol, 1.05 g | CS(=O)(=O)O | CH4O3S
solvent | water | 17.5 mL | O | H2O
product | (1S,2S)-1-(4-hydroxyphenyl)-2-(4-hydroxy-4-phenylpiperidin-1-yl)-1-propanol mesylate trihydrate | 4.53 g | O.O.O.S(C)(=O)(=O)O[C@H]([C@H](C)N1CCC(CC1)(C1=CC=CC=C1)O)C1=CC=C(C=C1)O | InChI=1S/C21H27NO5S.3H2O/c1-16(20(27-28(2,25)26)17-8-10-19(23)11-9-17)22-14-12-21(24,13-15-22)18-6-4-3-5-7-18;;;/h3-11,16,20,23-24H,12-15H2,1-2H3;3*1H2/t16-,20+;;;/m0.../s1
